US04816602
1.68 g of 1,1,1,6-tetrachloro-3,3,6-trimethylheptane is combined in 4 ml of dichloromethane with 10 ml of 40% aqueous sodium hydroxide solution and 0.52 g of "Aliquat" 336, and heated under reflux for 17 hours. Then the reaction mixture is allowed to cool, combined with 20 ml of dichloromethane, the organic phase is separated, washed with water, and dried over calcium chloride. The solution is then concentrated under vacuum, yielding 1,6-dichloro-3,3,6-trimethyl-1-heptyne as an oily crude product.

reactant | 1,1,1,6-tetrachloro-3,3,6-trimethylheptane | 1.68 g | ClC(CC(CCC(C)(C)Cl)(C)C)(Cl)Cl | C10H18Cl4
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1,6-dichloro-3,3,6-trimethyl-1-heptyne | ClC#CC(CCC(C)(C)Cl)(C)C | C10H16Cl2
